US06960575B2
(2RS,3S)-3-{(3RS)-4-Acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-2-hydroxy-4-phenylbutanenitrile (Compound No. 8-1)
(2S)-2-{(3RS)-4-Acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-3-phenylpropanal (630 mg, Compound No. 7-1) is suspended in water (6 ml). Sodium hydrogensulfite (160 mg), water (6 ml) and ethyl acetate (18 ml) are added to the suspension, and the mixture is stirred for 30 minutes. Potassium cyanide (105 mg) is added to the mixture, and the whole is stirred for one day. Water is added to the reaction mixture, and the whole is extracted with ethyl acetate. The extract is washed with water and saturated brine successively and dried over anhydrous magnesium sulfate. The extract is concentrated under reduced pressure, and the resulting residue is purified by silica gel column chromatography to give the titled compound (624 mg).

reactant | (2S)-2-{(3RS)-4-Acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-3-phenylpropanal | C(C)(=O)N1C(C(N(C(=C1)C1=CC=CC=C1)CC(=O)N[C@H](C=O)CC1=CC=CC=C1)=O)C(C)C | C26H29N3O4
reactant | Sodium hydrogensulfite | 160 mg | S(=O)(O)[O-].[Na+]
reactant | ethyl acetate | 18 ml | C(C)(=O)OCC | C4H8O2
reactant | Potassium cyanide | 105 mg | [C-]#N.[K+]
solvent | water | 6 ml | O | H2O
solvent | water | 6 ml | O | H2O
product | (2RS,3S)-3-{(3RS)-4-Acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-2-hydroxy-4-phenylbutanenitrile | 624 mg | C(C)(=O)N1C(C(N(C(=C1)C1=CC=CC=C1)CC(=O)N[C@H](C(C#N)O)CC1=CC=CC=C1)=O)C(C)C | C27H30N4O4
